*****************************************************************
* NXP BUK7Y113-100E
*
* Polarity N-Channel
* Ratings 100V/1.130000E-001OHMS/11.9950572995254A
*
* Date Created Mon Feb 04 07:05:16 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y113-100E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0706856922907731 TC=0.00565840810951041,3.65971412283321E-05
RBD 9 4 0.00440821491736124 TC=0.00565840810951041,3.65971412283321E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.98e-10
RG 1 2 1.86663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	419.112
+ -16	418.664
+ -10	417.353
+ -5	413.105
+ -4	396.126
+ -3	382.814
+ -2	308.124
+ -1	240.276
+ -0.5	204.075
+ -0.2	180.593
+ -0.1	179.993
+ 0	163.34282
+ 0.1	144.60176
+ 0.2	144.41928
+ 0.5	130.96448
+ 1	116.76028
+ 2	94.95838
+ 3	85.74459
+ 4	81.25536
+ 5	77.992
+ 6	75.08625
+ 8	70.42359
+ 10	66.74362
+ 12	63.59469
+ 15	59.88994
+ 16	58.80422
+ 20	55.40797
+ 25	52.08996
+ 30	49.47347
+ 50	42.81242


*Vto=3.62893916098643 changed to 3.8

.MODEL MINT NMOS(Vto=3.8 Kp=1.730669e+001 Nfs=1020000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=2.83084283722743e-14
+ N=1 M=0.57 VJ=0.66 Fc=0.5 Cjo=1.5274984e-10 Tt=2.0656e-08)

.ENDS

